US08865712B2
d) 3-Amino-5-cyano-pyridine-2-carboxylic acid
To a mixture of 3-amino-5-cyano-pyridine-2-carboxylic acid tert-butyl ester (60 mg, 0.274 mmol) and 1,3-dimethoxybenzene (0.358 ml, 2.74 mmol) was added dropwise within 10 min TFA (0.59 ml, 7.66 mmol) and the reaction mixture was stirred for 6 h. Toluene was added and the solvents were evaporated to provide the title compound as yellow solid. The product was used for the next step without further purification.

reactant | 3-amino-5-cyano-pyridine-2-carboxylic acid tert-butyl ester | 0.274 mmol, 60 mg | C(C)(C)(C)OC(=O)C1=NC=C(C=C1N)C#N | C11H13N3O2
reactant | 1,3-dimethoxybenzene | 2.74 mmol, 0.358 ml | COC1=CC(=CC=C1)OC | C8H10O2
reactant | TFA | 7.66 mmol, 0.59 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | Toluene | C1(=CC=CC=C1)C | C7H8
product | 3-Amino-5-cyano-pyridine-2-carboxylic acid | NC=1C(=NC=C(C1)C#N)C(=O)O | C7H5N3O2
